US04771046
0.945 g of trisodium phosphorothioate were added to a solution of 1.21 g of 2-[(3R)-3-carbamoyloxypyrrolidin-1-yl]-2-iminoethylchloride hydrochloride in 8 ml of water, kept cooled in ice-water, and the mixture was stirred for about 3 hours at room temperature. After adding 6 ml of 1N hydrochloric acid, the mixture was heated to 50° C. for 30 minutes, and the solvent was then distilled off under reduced pressure. The concentrate was mixed with 8 ml of methanol, insolubles were filtered off, and the filtrate was concentrated under reduced pressure. The concentrate was crystallized by adding ether, and the crystals were collected by filtration and washed with ether, giving 1.25 g of 2-[(3R)-3-carbamoyloxypyrrolidin-1-yl]-2-iminoethylmercaptan hydrochloride.

reactant | trisodium phosphorothioate | 0.945 g | P([O-])([O-])([O-])=S.[Na+].[Na+].[Na+]
reactant | 2-[(3R)-3-carbamoyloxypyrrolidin-1-yl]-2-iminoethylchloride hydrochloride | 1.21 g | Cl.C(N)(=O)O[C@H]1CN(CC1)C(CCl)=N
reactant | hydrochloric acid | 1N, 6 ml | Cl | ClH
solvent | water | 8 ml | O | H2O
product | 2-[(3R)-3-carbamoyloxypyrrolidin-1-yl]-2-iminoethylmercaptan hydrochloride | 1.25 g | Cl.C(N)(=O)O[C@H]1CN(CC1)C(CS)=N | InChI=1S/C7H13N3O2S.ClH/c8-6(4-13)10-2-1-5(3-10)12-7(9)11;/h5,8,13H,1-4H2,(H2,9,11);1H/t5-;/m1./s1
